US07553840B2
The mixture of 2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)ethanol (100 mg, 0.40 mmol), 2-amino-4,6-dichloropyrimidine (60 mg, 0.38 mmol), and cesium carbonate (468 mg, 1.44 mmol) was dissolved in 2 ml of 1,4-dioxane in a 50 ml sealed tube. The mixture was heated at 110° C. overnight, then was cooled to room temperature; 10 ml of ethyl acetate was added and then filtered through Celite. The filtrate was concentrated to give 120 mg of 4-chloro-6-[2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine, yield: 80%.

reactant | 2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)ethanol | 0.40 mmol, 100 mg | FC(C(O)C1=CC=C(C=C1)C1=CC=NC=C1)(F)F | C13H10F3NO
reactant | 2-amino-4,6-dichloropyrimidine | 0.38 mmol, 60 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | cesium carbonate | 1.44 mmol, 468 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-6-[2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine | 120 mg, yield: 80% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=CC=NC=C1)N | C17H12ClF3N4O
